US05750702
A mixture of N-(4-ethoxyphenyl)-4-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxamide (204 mg, 0.7 mmol), potassium carbonate (188 mg, 1.4 mmol), cesium carbonate (22 mg, 0.1 mmol), and iodoethane (0.08 mL, 1 mmol) in N,N-dimethylformamide was heated at 85° C. for 1 hour. The mixture was cooled and filtered using ethyl acetate. The solid was set aside; the organic layer was washed with water, dried over magnesium sulfate, filtered, concentrated in vacuo, and triturated with diethyl ether to give N-(4-ethoxyphenyl)-1-ethyl-4-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxamide (73 mg). The set-aside solid was slurried in aqueous hydrochloric acid, the precipitate collected, rinsed with water and dried to give additional amide (Compound 58) (94 mg). mp. 209°-210° C.

reactant | N-(4-ethoxyphenyl)-4-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxamide | 0.7 mmol, 204 mg | C(C)OC1=CC=C(C=C1)NC(=O)C1=CNC=2CCCC(C12)=O | C17H18N2O3
reactant | potassium carbonate | 1.4 mmol, 188 mg | C([O-])([O-])=O.[K+].[K+]
reactant | cesium carbonate | 0.1 mmol, 22 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodoethane | 1 mmol, 0.08 mL | ICC | C2H5I
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | N-(4-ethoxyphenyl)-1-ethyl-4-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxamide | 73 mg | C(C)OC1=CC=C(C=C1)NC(=O)C1=CN(C=2CCCC(C12)=O)CC | C19H22N2O3
